US04193918
A suspension of the potassium salt of D(-) p-hydroxy-N(1-methoxycarbonyl-2-propenyl)-alpha-aminophenylacetic acid (3.607 g, 1.19 cmoles), methylene chloride (25 ml), dimethylacetamide (2.5 ml) and TMSO (1.82 ml) was stirred at room temperature (20-25° C.) for 45 minutes. Thereafter triethylamine hydrochloride (1.63 g; 1.19 cmoles) was added and after 15 minutes the result was a translucid solution which was cooled to -20° C. Pivalyl chloride (1.45 ml; 1.2 cmoles) in methylene chloride (1.25 ml) and a drop of triethylamine were added. The reaction mixture was stirred for 60 minutes at a temperature of from -10 to -7° C. Thereafter a solution of 6-APA (1 cmole) prepared according to Example 1 was added under the conditions specified in that Example. Then, in a like manner, 3.25 g of amoxicillin (ratio of 1:1,50 with respect to 6-APA) were obtained.

reactant | potassium | [K] | K
reactant | p-hydroxy-N(1-methoxycarbonyl-2-propenyl)-alpha-aminophenylacetic acid | 1.19 cmoles, 3.607 g | OC1=CC=C(C=C1)C(C(=O)O)NC(C=C)C(=O)OC | C13H15NO5
reactant | triethylamine hydrochloride | 1.19 cmoles, 1.63 g | Cl.C(C)N(CC)CC
reactant | Pivalyl chloride | 1.2 cmoles, 1.45 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 6-APA | 1 cmole | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
solvent | methylene chloride | 1.25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dimethylacetamide | 2.5 ml | CC(=O)N(C)C | C4H9NO
product | amoxicillin | 3.25 g | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC(=CC3)O)N)C(=O)O)C | C16H19N3O5S
